US07129239B2
Preparation of Intermediate 4-Ethylaminopiperidine-4-carboxylic Acid Amide (I-(7A-80)f)
To a solution of 1-benzyl-4-ethylaminopiperidine-4-carboxylic acid amide I-(7A-80)e (7.39 g, 28.3 mmol) in methanol (100 ml) was added 20% Pd(OH)2 on carbon (50% water; 1.48 g). The mixture was place on a Parr® shaker and was reduced (50 psi H2) at room temperature overnight. The mixture was filtered through a pad of Celite®, and then concentrated to a colorless solid (4.84 g, quantitative): +ACPI MS (M+1) 172.2; 1H NMR (400 MHz, CD2Cl2) δ 2.89 (ddd, J=12.9, 8.7, 3.3 Hz, 2H), 2.75 (ddd, J=12.9, 6.6, 3.7 Hz, 2H), 2.45 (q, J=7.2 Hz, 2H), 1.95 (ddd, J=13.7, 8.3, 3.7 Hz, 2H), 1.55 (ddd, J=13.7, 6.6, 3.3 Hz, 2h), 1.08 (t, J=7.1 Hz, 3H).

reactant | 1-benzyl-4-ethylaminopiperidine-4-carboxylic acid amide | 28.3 mmol, 7.39 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NCC | C15H23N3O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd(OH)2 on carbon | 1.48 g | [OH-].[OH-].[Pd+2]
product | 4-Ethylaminopiperidine-4-carboxylic Acid Amide | C(C)NC1(CCNCC1)C(=O)N | C8H17N3O
